US05945426
4-(4-Fluorophenyl)-2-hydroxy-6-methylpyrimidine
A mixture of 5 g of 4-fluorobenzoylacetone, 1.66 g of urea, 25 ml of ethanol, and 3.8 ml of concentrated hydrochloric acid was refluxed for 20 hours. This reaction mixture was cooled, poured into iced water, made basic with aqueous solution of potassium carbonate, and neutralized with acetic acid. The crystals that separated out were collected by filtration, washed with isopropyl ether, and dried to provide 2.65 g of pale yellow crystals.

reactant | 4-fluorobenzoylacetone | 5 g | FC1=CC=C(C(=O)CC(C)=O)C=C1 | C10H9FO2
reactant | urea | 1.66 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 3.8 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(4-Fluorophenyl)-2-hydroxy-6-methylpyrimidine | 2.65 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1)C)O | C11H9FN2O
